US06903075B1
Step A: N-Boc-4-(2-nitrophenoxy)-(L)-phenylalanine, methyl ester
To a solution of N-Boc-(L)tyrosine, methyl ester (500 mg) and potassium carbonate (467 mg) in dimethylformamide (5 mL) was added dropwise 1-fluoro-2-nitrobenzene (189 μL). The yellow solution was stirred for 3 days at room temperature. The mixture was diluted with ether which was subsequently washed with 1N hydrochloric acid, water, saturated salt solution and dried over anhydrous magnesium sulfate. After filtration, the solvent was removed by rotoevaporation to yield the title compound (700 mg) which was used in the subsequent reaction without further purification.

reactant | N-Boc-(L)tyrosine, methyl ester | 500 mg | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=C(C=C1)O)C(=O)OC | C15H21NO5
reactant | potassium carbonate | 467 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-fluoro-2-nitrobenzene | 189 μL | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | ether | CCOCC | C4H10O
product | N-Boc-4-(2-nitrophenoxy)-(L)-phenylalanine, methyl ester | 700 mg | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=C(C=C1)OC1=C(C=CC=C1)[N+](=O)[O-])C(=O)OC | C21H24N2O7
